US04963544
To a suspension of sodium borohydride (6.03 g) in tetrahydrofuran (270 ml) was added boron trifluoride etherate (72 ml) at 0° C. under stirring. After stirring for 10 minutes, to the suspension was added a solution of (2S,4R)-2-(2,4-dioxoimidazolidin-3-yl)methyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (27.3 g) obtained in Preparation 10 in tetrahydrofuran (140 ml) and the mixture was stirred for 14 hours at ambient temperature This reaction mixture was evaporated in vacuo and to the residue was added a solution of conc. hydrochloric acid (31 ml) in methanol (400 ml). After standing for 12 hours at ambient temperature, the solution was evaporated in vacuo and the resulting residue was poured into saturated aqueous sodium hydrogen carbonate (450 ml). The aqueous layer was extracted three times with a mixture of ethyl acetate (200 ml) and tetrahydrofuran (200 ml) and evaporated in vacuo. The resulting residue was chromatographed on silica gel (600 ml) eluting with a mixture of methanol and dichloromethane (5:95, V/V) to give (2 S,4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxo-4-imidazolin-1-yl)methylpyrrolidine (1.11 g).

reactant | sodium borohydride | 6.03 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | 72 ml | B(F)(F)F.CCOCC
reactant | (2S,4R)-2-(2,4-dioxoimidazolidin-3-yl)methyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 27.3 g | O=C1NCC(N1C[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H18N4O7
solvent | tetrahydrofuran | 270 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | (2 S,4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxo-4-imidazolin-1-yl)methylpyrrolidine | 1.11 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(NC=C1)=O | C16H18N4O6
